US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({2-[3-(4-piperidinylmethyl)phenyl]-4-pyridinyl}methyl)-1,3-benzenedicarboxamide
To 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid (30 mg, 0.066 mmol) was added 1,1-dimethylethyl 4-({3-[4-(aminomethyl)-2-pyridinyl]phenyl}methyl)-1-piperidinecarboxylate (25.3 mg, 0.066 mmol) followed by HBTU (30.2 mg, 0.080 mmol) and TEA (13.45 mg, 0.133 mmol) in dichloromethane (DCM) (664 μl) to give a reaction mixture that was stirred at room temperature overnight. Then the reaction was quenched with H2O (1 drop) and the solvent was removed by Glas-Col. The crude product was redissolved in MeOH/DMSO and purified using a Gilson HPLC (acidic conditions) and concentrated by GeneVav EZ-2 evaporator. To this product was added TFA (93 μl, 1.329 mmol) in dichloromethane (0.2 mL) which was then stirred at room temperature overnight. The reaction mixture was dissolved in MeOH/DMSO and purified using a Gilson HPLC (acidic conditions), concentrated by GeneVav EZ-2 evaporator and basified with an amine cartridge to afford 17.1 mg (32%) of the title compound. LC-MS m/z 715 (M+H)+; 1H NMR (400 MHz, DMSO-d6) δ 1.23-1.42 (m, 6 H) 1.68-1.76 (m, 3 H) 1.79-2.02 (m, 3 H) 2.08 (s, 2 H) 2.63 (d, J=6.78 Hz, 2 H) 2.76-2.84 (m, 2 H) 3.07-3.15 (m, 2 H) 3.20-3.28 (m, 2 H) 3.32-3.39 (m, 1 H) 3.58-3.66 (m, 2 H) 3.90 (dd, J=8.03, 3.51 Hz, 2 H) 4.29-4.37 (m, 1 H) 4.47 (q, J=7.19 Hz, 2 H) 4.60 (t, J=6.40 Hz, 4 H) 7.28 (d, J=7.78 Hz, 1 H) 7.34 (d, J=3.76 Hz, 1 H) 7.39-7.46 (m, 1 H) 7.65 (t, J=7.78 Hz, 1 H) 7.85 (d, J=8.03 Hz, 1 H) 7.92 (d, J=14.56 Hz, 2 H) 8.05 (d, J=8.03 Hz, 1 H) 8.12 (d, J=7.78 Hz, 1 H) 8.26 (br. s., 1 H) 8.40 (s, 2 H) 8.61 (d, J=4.52 Hz, 1 H) 8.86 (br. s., 1 H) 9.32-9.39 (m, 2 H).

reactant | 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid | 0.066 mmol, 30 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
reactant | 1,1-dimethylethyl 4-({3-[4-(aminomethyl)-2-pyridinyl]phenyl}methyl)-1-piperidinecarboxylate | 0.066 mmol, 25.3 mg | NCC1=CC(=NC=C1)C=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C23H31N3O2
reactant | HBTU | 0.080 mmol, 30.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | TFA | 1.329 mmol, 93 μl | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 664 μl | ClCCl | CH2Cl2
solvent | dichloromethane | 0.2 mL | ClCCl | CH2Cl2
solvent | MeOH DMSO | CO.CS(=O)C
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({2-[3-(4-piperidinylmethyl)phenyl]-4-pyridinyl}methyl)-1,3-benzenedicarboxamide | 17.1 mg, 32% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC2=CC(=NC=C2)C2=CC(=CC=C2)CC2CCNCC2)CC | C42H50N8O3
